US04927926
A solution of 0.8 g (2.60 mmoles) of ethyl 7-amino-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate, 0.33 g (2.60 mmoles) of 1,3-dichloro-2-propanol and 25 ml of pyridine is agitated for 3 days, protected from light at ambient temperature; then left refluxing for 3 days and more. The solution is concentrated almost to dryness, poured onto water giving a precipitate which is filtered and washed with water. The solid is dried under vacuum, yielding 0.52 g (55%) of ethyl 1-cyclopropyl-6,8-difluoro-7-(3-hydroxy-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylate. Its melting point and spectroscopic data are identical to those of the derivative obtained according to method A.

reactant | ethyl 7-amino-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 2.60 mmoles, 0.8 g | NC1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)OCC)=O)F | C15H14F2N2O3
reactant | 1,3-dichloro-2-propanol | 2.60 mmoles, 0.33 g | ClCC(CCl)O | C3H6Cl2O
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 1-cyclopropyl-6,8-difluoro-7-(3-hydroxy-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 0.52 g, 55% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(C1)O)F)=O)C(=O)OCC | C18H18F2N2O4
